US05530028
Preparation of 2-Ethyl-3-Methoxybenzoic Acid
A 5 L, 4-necked round-bottom flask equipped with addition funnel, overhead stirring, and nitrogen purge was dried and charged with 128 g (623 mmoles) of 2-(3-methoxyphenyl)-5,5-dimethyloxazoline in 2.5 L of tetrahydrofuran. The mixture was cooled to -65° C. in a dry ice/isopropanol bath, and 450 mL of 1.6N n-butyl lithium was added slowly. After complete addition, the mixture was stirred for 1.5 hours at -45° to -30° C. After cooling to -45° C., ethyl iodide was added (80 mL, 1 mole). The temperature was maintained at -45° C. for 20 minutes, the mixture was allowed to warm to room temperature and was stirred overnight. Saturated ammonium chloride was added with ice cooling, and the mixture extracted several times with ether. The organic extracts were combined, dried over sodium sulfate, and solvent was removed in vacuo to give an oily solid. The solid was dissolved in 1 L of 6N hydrochloric acid in 3:1 water:methanol and heated at reflux for 15 hours. The hydrolysis was monitored by 1H NMR and shown to be about 75% complete. Additional acid was added (200 mL of 6N hydrochloric acid in 3:1 water:methanol), and the mixture was heated again at reflux for 8 hours. The mixture was cooled on ice, solids were collected, and dissolved in 10% aq. sodium hydroxide/methylene chloride. The aqueous layer was removed, acidified, and filtered to yield a tan solid which was air-dried at room temperature (53 g). An additional 23 g of product was obtained by further acidic hydrolysis of the methylene chloride extract. The melting point of the desired acid was 100°-101° C.

reactant | 2-(3-methoxyphenyl)-5,5-dimethyloxazoline | 623 mmoles, 128 g | COC=1C=C(C=CC1)C=1OC(CN1)(C)C | C12H15NO2
reactant | n-butyl lithium | 1.6N, 450 mL | C(CCC)[Li]
reactant | ethyl iodide | C(C)I | C2H5I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 2.5 L | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 6N, 1 L | Cl | ClH
solvent | water | O | H2O
solvent | hydrochloric acid | 6N, 200 mL | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-Ethyl-3-Methoxybenzoic Acid | 23 g | C(C)C1=C(C(=O)O)C=CC=C1OC | C10H12O3
